US03931205
5.1 G of 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid and 1.96 g of 2-dimethylaminoethanol are dissolved in 30 ml of pyridine. 4.2 g of p-tolylsulfonyl chloride is added in small portions to the pyridine solution with stirring at room temperature, and the mixture is stirred at 80°-90°C for 2 hours. The pyridine is distilled off under reduced pressure, and the residue is dissolved in chloroform. After addition of ice water, the solution is adjusted to pH 9 by addition of 15% sodium hydroxide. The mixture is thoroughly shaken, and the chloroform layer is separated. The chloroform layer is washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residual oil is dissolved in 30 ml of isopropyl alcohol, and the solution is adjusted to pH 1-2 by addition of 20% alcoholic hydrochloric acid. After cooling, the crystalline precipitate is filtered off, and high vacuum dried to give 4.2 g of 2-dimethylaminoethyl 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionate hydrochloride melting at 167°-169°C.

reactant | 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)C | C15H13NO3
reactant | 2-dimethylaminoethanol | 1.96 g | CN(CCO)C | C4H11NO
reactant | p-tolylsulfonyl chloride | 4.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-dimethylaminoethyl 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionate hydrochloride | 4.2 g | Cl.N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)OCCN(C)C)C | InChI=1S/C19H22N2O3.ClH/c1-13(19(22)23-10-9-21(2)3)14-6-7-17-16(11-14)12-15-5-4-8-20-18(15)24-17;/h4-8,11,13H,9-10,12H2,1-3H3;1H
